US04999377
A solution of methyl 4-[2-(N-benzyl-N-(2-hydroxy-3-phenoxypropyl)amino)ethyl]phenoxyacetate (6.0 g) and piperidine (16 ml) in methanol (60 ml) was stored at room temperature for 4 days. The solvent and excess reagent were evaporated under reduced pressure. Toluene was added to the residue and volatile material was evaporated. This procedure was repeated twice more. The crude intermediate (8.0 g) was purified by chromatography on K60 silica (210 g) using a mixture of methanol and dichloromethane of increasing polarity (1% to 2% methanol) to give N-(4-[2-(N-benzyl-N-(2-hydroxy-3-phenoxypropyl)amino)ethyl]phenoxyacetyl)piperidine (6.2 g) as a gum. The purified intermediate (6.2 g) was debenzylated in an analogous manner to that of Example 23, to give a colourless solid (5.1 g) which was recrystallised from propan 2-ol to yield N-(4-[2-(2-hydroxy-3-phenoxypropylamino)ethyl]phenoxyacetyl)piperidine hydrochloride (3.7 g) m.p. 139°-41°; NMR: 1.40-1.70 [m,6H, CH2 (CH2)3CH2 ]; 2.90-3.10[m,2H, CH2C6H4 ]; 3.10-3.35[m,4H, CH2NHCH2 ]; 3.35-3.55[m,4H, CH2NCH2 ]; 4.03[m,2H,PhOCH2 ]; 4.30[m,1H,CHOH]; 4.75[s,2H, OCH2CO]; 6.85-7.05[m,5H, aromatic H]; 7.15-7.38[m,4H, aromatic H]: microanalysis: found: C, 64.2; H, 7.4; N, 5.8; Cl, 7.7%; C24H32N2O4.HC1 requires: C, 64.2; H, 7.4; N, 6.2; Cl 7.9%.

reactant | methyl 4-[2-(N-benzyl-N-(2-hydroxy-3-phenoxypropyl)amino)ethyl]phenoxyacetate | 6.0 g | C(C1=CC=CC=C1)N(CC(COC1=CC=CC=C1)O)CCC1=CC=C(OCC(=O)OC)C=C1 | C27H31NO5
reactant | piperidine | 16 ml | N1CCCCC1 | C5H11N
solvent | methanol | 60 ml | CO | CH4O
product | N-(4-[2-(N-benzyl-N-(2-hydroxy-3-phenoxypropyl)amino)ethyl]phenoxyacetyl)piperidine | 6.2 g | C(C1=CC=CC=C1)N(CC(COC1=CC=CC=C1)O)CCC1=CC=C(OCC(=O)N2CCCCC2)C=C1 | C31H38N2O4
